US05728835
3-Nitro-N-(3-methylthiophenyl)benzamide
Using 3-methylthioaniline (2.1 ml, 16.5 mmol) and 3-nitrobenzoic acid (2.64 g, 15.0 mmol), the procedure of Reference Example 16 was repeated to obtain 4.09 g (94.6%) of the title compound in the form of light yellow needle crystals.

reactant | 3-methylthioaniline | 16.5 mmol, 2.1 ml | CSC=1C=C(N)C=CC1 | C7H9NS
reactant | 3-nitrobenzoic acid | 15.0 mmol, 2.64 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
product | 3-Nitro-N-(3-methylthiophenyl)benzamide | 4.09 g, 94.6% | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC(=CC=C2)SC)C=CC1 | C14H12N2O3S
